US04400519
One hundred (100) grams of benzil-di(β-bromoethyl)ketal and 60.5 g of sodium succinimide were dissolved in 500 ml of N,N-dimethylformamide (to be referred to as DMF), and the solution was heated at 50° to 60° C. for 6 hours with stirring. After the reaction, the reaction mixture was poured into 1 liter of ice water. The resulting crystals were filtered, thoroughly washed with water, and dried to afford 95 g (88% yield) of benzil-di(β-succinimidoethyl)ketal as white crystals. Recrystallization from ethanol yielded crystals having a melting point of 90° to 92° C. The product is referred to as initiator 1.

reactant | benzil-di(β-bromoethyl)ketal | BrCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCBr | C18H18Br2O3
reactant | sodium succinimide | 60.5 g | C1(CCC(N1)=O)=O.[Na]
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | benzil-di(β-succinimidoethyl)ketal | 95 g, 88% yield | C1(CCC(N1CCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCN1C(CCC1=O)=O)=O)=O | C26H26N2O7
